Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Skull fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with history of ETOH abuse who recently
relapsed after being sober for ___ years.  She was reportedly in
police custody and she states the officer threw her into a cell
and she lost her balance and struck her head and had LOC.  She
was evaluated at ___ where they initially read her Head
CT as negative and discharged her.  Upon review it was noted 
that
she had a left occipital, depressed skull fracture.  She
complains of left occiput pain/tenderness.  She has had
photophobia and hyperacussis since a concussion 4 weeks ago
sustained from an MVC.  Currently she denies any visual changes
or HA.  Of note she was also found to have a positive pregnancy
test at the OSH and she states her LMP was 4 weeks ago.

 
Past Medical History:
ADD, Knee surgery, neuropathy, HCV

All:NKDA

 
Social History:
___
Family History:
NC
 
Physical Exam:
O: T: 98 BP: 130/50    HR:68    R: 16       O2Sats: 99%
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  ___, bilat  EOMs: intact
Tender left occiput, no open areas.
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.

Reflexes: B T Br Pa Ac
Right     ___  2  2
Left      ___  2  2

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger.

EXAM ON DISCHARGE: 
A&Ox3, PERRL, EOMI, No drift, MAE ___. + headache, no n/v/d. 

 
Pertinent Results:
CT: Head CT ( from OSH)
Left inferior occipital depressed skull fracture without
extension to the sinus.  No hemorrhage.

___: 10.4  PTT: 27.9  INR: 1.0  

      12.1  
7.3 >-----< 303 
 
      36.2 

 
Brief Hospital Course:
Mrs. ___ was admitted on ___ to the ICU for close monitoring 
of her occipital skull fracture. In the ED her HCG was positive. 
OB was consulted for recommendations of meds and if the patient 
is able to continue her home meds which are catergory C meds. OB 
sated to continue home meds, and ok to use narcotics if needed. 
Please refer to the OB note for further specific details. 
On ___, the patient remained neurologically and hemodynamically 
stable. A repeat head CT was not obtained in the setting of a 
stable neuro exam and pregnancy. The patient expressed readiness 
to be discharged home. All narcotics were stopped and given 
Tylenol prn. OB recommend a ultrasound outpatient as soon as 
possible. Social work was consulted for assistance in living 
situation and also assistance with locating a detox center. 
However, the patient is familiar with a detox center and 
scheduled an appointment for first thing tomorrow morning. She 
stated she will like to get better for her babies. The patient 
was discharged in stable conditions, all discharge instructions 
and follow up were given prior to discharge. 
 
Medications on Admission:
Adderall
Gabapentin
Prozac

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
Do not exceed more than 4 grams in 24hrs.  
2. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
3. FLUoxetine 80 mg PO DAILY 
4. Prenatal Vitamins 1 TAB PO DAILY 
5. Gabapentin 800 mg PO QID 
6. OxycoDONE (Immediate Release)  5 mg PO ONCE pain  Duration: 1 
Dose 
Do not drive or operate mechanical machinery when taking 
narcotics.  
RX *oxycodone 5 mg 2 tablet(s) by mouth once Disp #*2 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Skull fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Depressed Occipital Skull Fracture

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You may take leisurely walks and slowly increase your activity 
at your own pace once you are symptom free at rest. ___ try to 
do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after a brain 
injury. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___